US07285563B2
6,7,8,9-Tetrahydro-5H-benzo[α][7]annulen-7-ylmethylamine hydrochloride
A mixture of 7-(nitromethyl)-6,7,8,9-tetrahydro-5H-benzo[α][7]annulene (Description 27; 48.6 g, 0.24 mol) and Ra—Ni (50 g) in ethanol (600 ml) was hydrogenated at 60 psi for 12 hours. An additional charge of Ra—Ni (50 g) was added and the mixture was hydrogenated until GC analysis indicated the reaction was complete. The resulting mixture was filtered over Celite™ and washed with ethanol (200 ml). The filtrate was treated with concentrated HCl (35 ml, 0.42 mol) and concentrated under reduced pressure. The product was then slurried in tert-butyl methyl ether (100 ml) and cooled between 0 and 5° C., filtered and washed with tert-butyl methyl ether (100 ml) and dried to give the title compound (21 g, 42%).

reactant | 7-(nitromethyl)-6,7,8,9-tetrahydro-5H-benzo[α][7]annulene | 0.24 mol, 48.6 g | [N+](=O)([O-])CC1CCC2=C(CC1)C=CC=C2 | C12H15NO2
reactant | HCl | 0.42 mol, 35 ml | Cl | ClH
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | Ra—Ni | 50 g | [Ni] | Ni
catalyst | Ra—Ni | 50 g | [Ni] | Ni
product | 6,7,8,9-Tetrahydro-5H-benzo[α][7]annulen-7-ylmethylamine hydrochloride | 21 g, 42% | Cl.C1=CC=CC2=C1CCC(CC2)CN | InChI=1S/C12H17N.ClH/c13-9-10-5-7-11-3-1-2-4-12(11)8-6-10;/h1-4,10H,5-9,13H2;1H
